### PR TITLE
Comprehension Categories, CwFs and Building a CwF from a Comp Cat with Universe (Again)

### PR DESCRIPTION
**Pull request by niyoushanajmaei**
#2069 was accidentally merged and reverted. So I am making the PR again. 

This PR is on our joint work with @nmvdw and contains:

1. material about comprehension categories that builds on `DisplayedCats.ComprehensionC` and includes type formers (Pi, Sigma, unit) and universes
 - The part about comprehension categories and type formers is done in the style of "From semantics to syntax: A type theory for comprehension categories" by Najmaei, Van der Weide, Ahrens and North
- This developement is similar to the bicategorical developement in `Bicategories.ComprehensionCat`
2. categories with families (cwfs) as defined by Dybjer and type formers in cwfs
3. a construction that yields a cwf from a comprehension category with a universe closed under unit and sigma
4. does a minor refactoring to fibrations to indexed

### CODE REVIEW

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 1]
```diff
@@ -0,0 +1,1377 @@
...
+Definition comp_cat_subst_tm_eq {C : comp_cat} {Γ Δ : C} {A : comp_cat_ty Δ}
+  (t : comp_cat_tm A) { s s' : Γ --> Δ } (p : s = s')
+  : t [[ s ]]tm ↑ (⌈ (comp_cat_subst_ty_iso _ p) ⌉) = t [[ s' ]]tm.
+Proof.
+  induction p.
+  apply comp_cat_id_coerce_tm.
+Qed.
+
+Definition comp_cat_ext_subst_eq
+  {Γ Δ : C}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v:1057]: The argument `{C : comp_cat}` is missing here

**Comment by niyoushanajmaei** [comment]
@nmvdw ready for review.

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 2]
```diff
@@ -0,0 +1,1293 @@
...
+
+Declare Scope cwf.
+Delimit Scope cwf with cwf.
+Local Open Scope cwf.
+
+Definition cwf_ty_term_subst (C : category) : UU := functor (C ^opp) Fam.
+
+Definition cwf_ty_from_ty_term_subst {C : category} (T : cwf_ty_term_subst C) (Γ : C) : hSet := fam_base (pr11 T Γ).
+
+Definition cwf_tm_from_ty_term_subst {C : category} {Γ : C}  (T : cwf_ty_term_subst C) (A : cwf_ty_from_ty_term_subst T Γ) : hSet := fam_el A.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: This line is a bit long (same for `cwf_subst_ty_from_ty_term_subst` and `cwf_subst_tm_from_ty_term_subst`) and they can be split over multiple lines

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 3]
```diff
@@ -0,0 +1,1293 @@
...
+  : cwf_ty_from_ty_term_subst T Γ := (pr1 (pr21 T _ _ s) A).
+
+Notation "A '[[' s ']]'" := (cwf_subst_ty_from_ty_term_subst _ s A) (at level 20) : cwf.
+
+Definition cwf_subst_tm_from_ty_term_subst {C : category} {Γ Δ : C} {T : cwf_ty_term_subst C} {A : cwf_ty_from_ty_term_subst T Δ} (s : Γ --> Δ) (t : cwf_tm_from_ty_term_subst T A)
+  : cwf_tm_from_ty_term_subst T (A [[ s ]]) := (pr2 (pr21 T _ _ s) A t).
+
+Notation "t '[[' s ']]tm'" := (cwf_subst_tm_from_ty_term_subst s t) (at level 20) : cwf.
+
+Definition make_cwf_ty_term_subst
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v:212]: This one can be split into `functor_data` and `functor_axioms`

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 4]
```diff
@@ -0,0 +1,1293 @@
...
+Proof.
+  induction p.
+  apply idpath.
+Qed.
+
+Definition transportf_subst_tm {C : cwf_data} {Γ Δ : C}
+  {A : cwf_ty Δ} {s' s : Γ --> Δ} (p : s' = s)
+  (t : cwf_tm A) : cwf_tm (A [[ s' ]])
+  := transportf (fun s0 : Γ --> Δ => cwf_tm (A [[ s0 ]]))
+       (pathsinv0 p) ((pr2 (pr21 (cwf_t C) _ _ s)) A t).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]:
```suggestion
       (!p) ((pr2 (pr21 (cwf_t C) _ _ s)) A t).
```
might be nicer

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 5]
```diff
@@ -0,0 +1,1293 @@
...
+  := transportf (fun B : cwf_ty  Δ => cwf_tm  B)
+       (cwf_subst_ty_comp A s u) t.
+
+Definition cwf_subst_ty_id {C : cwf_data} {Γ : C} (A : cwf_ty  Γ)
+  : A [[ identity Γ ]] = A.
+Proof.
+  unfold cwf_subst_ty.
+  set (id := functor_id (cwf_t C) Γ).
+  exact (fam_mor_eq_pr1 id A).
+Defined.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 6]
```diff
@@ -0,0 +1,1293 @@
...
+(* the canonical morphism in the universal property *)
+Definition cwf_subst_pair {C : cwf} {Γ Δ : C} {A : cwf_ty Γ}
+  (s : Δ --> Γ) (t : cwf_tm (A [[ s ]])) : Δ --> (Γ & A)
+  := pr1 (iscontrpr1 (pr2 C Γ Δ A s t)).
+
+Notation "⟨⟨ s , t ⟩⟩" := (cwf_subst_pair s t) (at level 30, right associativity) : cwf.
+
+Definition cwf_pair_p {C : cwf} {Γ Δ : C} {A : cwf_ty Γ}
+  (s : Δ --> Γ) (t : cwf_tm (A[[s]])) : (⟨⟨ s , t ⟩⟩ · p_ A) = s
+  := (pr1 (pr2 (pr1 (pr2 C Γ Δ A s t)))).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: The notation `pr121` might be useful

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 7]
```diff
@@ -0,0 +1,1293 @@
...
+  use (cwf_pair_unique (p_ A) (q_ A)).
+  - abstract
+      (rewrite !assoc' ;
+       etrans ; [ apply maponpaths ; apply cwf_pair_p | ] ;
+       rewrite !assoc ;
+       etrans ; [ apply maponpaths_2 ; apply cwf_pair_p | ] ;
+       apply id_left).
+  -  apply id_left.
+  -  unfold cwf_qA_subst, cwf_subst_tm_comp.
+    rewrite transportf_subst_tm_on_s_eq.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: The indenting is one space off (and below)

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 8]
```diff
@@ -0,0 +1,1293 @@
...
+  {Γ Δ : C} (s : Γ --> Δ)
+  : transportf (λ A, cwf_tm A) (cwf_unit_subst_eq s)
+      (cwf_unit_tt Δ [[ s ]]tm)
+    = cwf_unit_tt Γ
+  := pr2 (pr222 u) Γ Δ s.
+
+End cwf_unit_accessors.
+
+
+(** Pi Type in CwF  *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]:
```suggestion
(** Pi Types in CwFs  *)
```

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 9]
```diff
@@ -0,0 +1,1293 @@
...
+        (pathsinv0 (cwf_pair_subst_ty_comm s A B a))
+        (cwf_pi_app_map
+          (transportf (λ X, cwf_tm X) (cwf_pi_subst_eq s A B) (f [[ s ]]tm))
+          (a [[ s ]]tm))
+  := pr2 (pr2 (pr2 (pr2 (pr222 π)))) Γ Δ s A B f a.
+
+End cwf_pi_accessors.
+
+
+(**  Sigma Type in CwF  *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]:
```suggestion
(**  Sigma Types in CwFs  *)
```

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v [hunk 10]
```diff
@@ -0,0 +1,1293 @@
...
+  : cwf_sigma_pi1_map
+      (transportf (λ X, cwf_tm X) (cwf_sigma_subst_eq s A B) (p [[ s ]]tm))
+    = cwf_sigma_pi1_map p [[ s ]]tm
+  := pr1 (pr2 (pr2 (pr2 (pr222 σ)))) Γ Δ s A B p.
+
+Definition cwf_sigma_subst_pi2 {C : cwf} {σ : cwf_sigma_structure C}
+  {Γ Δ : pr1 C} (s : Δ --> Γ)
+  {A : cwf_ty Γ} {B : cwf_ty (Γ & A)}
+  (p : cwf_tm ((pr1 σ) Γ A B))
+  : let T   := cwf_t (pr1 C) in
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: You can put `(T := cwf_t (pr1 C))` in the arguments to make it nicer to read

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 11]
```diff
@@ -0,0 +1,1382 @@
...
+  : UU
+  := total2 comprehension_cat_structure.
+
+Coercion comp_cat_to_ctx (C : comp_cat)
+  : category
+  := pr1 C.
+
+Definition comp_cat_morphisms (C: comp_cat)
+  : C -> C -> UU
+                    := pr2(pr1 (pr1 (pr1 (pr1 C)))).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: why is this one so far to the right

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 12]
```diff
@@ -0,0 +1,1382 @@
...
+
+Declare Scope comp_cat.
+Local Open Scope comp_cat.
+
+(** * Notations and Accesories for Comprehension Categories  *)
+
+
+Definition comp_cat
+  : UU
+  := total2 comprehension_cat_structure.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v:60]: Is it a conscious choice that `comp_cat` does not come with a terminal object?

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 13]
```diff
@@ -0,0 +1,1382 @@
...
+
+Notation "A '[[' s ']]'" := (comp_cat_subst_ty s A) (at level 20) : comp_cat.
+
+(** * Comprehension Structure and Substitution of Terms*)
+
+Definition comprehension_functor_mor
+  {C : category}
+  (CC : comprehension_cat_structure C)
+  {Γ₁ Γ₂ : C}
+  {A : pr1 CC Γ₁}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: A notation for types replacing `pr1 CC` would be good

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 14]
```diff
@@ -0,0 +1,1382 @@
...
+Definition comp_cat_univ_pullback {C : comp_cat} {Γ Δ Ω : C} {A : comp_cat_ty Δ}
+  (s : Γ --> Δ) (s' : Γ --> Ω)(s'' : Ω --> Δ & A)
+  (p : s' · s'' · (π A) = s)
+  : comp_cat_tm (A [[ s ]]).
+Proof.
+  use make_comp_cat_tm.
+  - use (PullbackArrow (comp_cat_pullback A s)).
+    + exact (s' · s'').
+    + exact (identity Γ).
+    + (* (s'·s'')·πA = id·s *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v:271]: `abstract`

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 15]
```diff
@@ -0,0 +1,1382 @@
...
+(* A term t substituted by s is given by the universal property of the pullback square given by s in C,
+ where the outer square projections are identity and s · t
+ So this is a special case of the previous function *)
+Definition comp_cat_subst_tm {C : comp_cat} {Γ Δ : C} {A : comp_cat_ty Δ}
+                     (s : Γ --> Δ) (t : comp_cat_tm A)
+  : comp_cat_tm (A [[ s ]]).
+Proof.
+  apply (@comp_cat_univ_pullback _ _ _ Δ _ _ s t).
+  set (th  := pr2 t : (t · (π A) = identity Δ)).
+  rewrite assoc'.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: abstract

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 16]
```diff
@@ -0,0 +1,1382 @@
...
+   set (HffB := cartesian_lift_is_cartesian _ _ liftB).
+   apply (cartesian_factorisation_unique HffB).
+   unfold cartesian_factorisation_commutes.
+   etrans.
+   { apply (cartesian_factorisation_commutes HffB). }
+   unfold fiber_functor_from_cleaving.
+   cbn.
+   rewrite transport_f_f.
+   refine (_ @ cartesian_factorisation_commutes HffB _ _ ).
+    etrans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: indenting

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v [hunk 17]
```diff
@@ -0,0 +1,1382 @@
...
+  refine (!_).
+  unfold comp_cat_reindex_coercion.
+  refine (_ @ !disp_cat_cleaving_assoc (cleaving_of_types C) _ _ _ _).
+  - rewrite transport_f_f.
+    apply idpath.
+  Qed.
+
+
+Proposition comp_cat_assoc_subst_ty
+            {C : comp_cat}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: indenting

File: UniMath/CategoryTheory/ComprehensionCats/CompCatTypeFormers.v [hunk 18]
```diff
@@ -0,0 +1,515 @@
...
+    {Γ Δ : C} (s : Δ --> Γ) (A : comp_cat_ty Γ) (B : comp_cat_ty (Γ & A))
+  : z_iso (C := fiber_category _ _)
+      (((pr1 Σ) Γ A B) [[ s ]])
+      ((pr1 Σ) Δ (A [[ s ]]) (B [[ comp_cat_ext_subst s A ]]))
+  := pr1 (pr222 (pr222 Σ)) Γ Δ s A B.
+
+Definition comp_cat_sigma_sub_pair
+    {C : comp_cat} {Σ : comp_cat_sigma C}
+    {Γ Δ : C} (s : Δ --> Γ) (A : comp_cat_ty Γ) (B : comp_cat_ty (Γ & A))
+  : let sA  := comp_cat_ext_subst s A in
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatTypeFormers.v]: you can add `(sA := comp_cat_ext_subst s A)` to make it more look nicer

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v [hunk 19]
```diff
@@ -0,0 +1,788 @@
...
+
+Definition comp_cat_universe_data (C: comp_cat_with_terminal) : UU
+  := ∑ (U : comp_cat_ty []),
+    ∑ (el : ∏ (Γ : C), comp_cat_tm (weakened_from_empty U _) -> comp_cat_ty Γ),
+      (∏ (Γ Δ : C) (s : Γ --> Δ) (t : comp_cat_tm (weakened_from_empty U _)),
+        @z_iso (fiber_category _ _)
+              ((el _ t) [[ s ]])
+              (el _ (t [[ s ]]tm ↑ ⌈sub_comp_cat_univ_iso U s⌉))).
+
+Local Definition el_map {C: comp_cat_with_terminal} (universe: comp_cat_universe_data C)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v:100]: Why is this definition `Local`?

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v [hunk 20]
```diff
@@ -0,0 +1,788 @@
...
+  (Γ : C) {a b : comp_cat_tm (weakened_from_empty (pr1 universe) _)}
+  (p : a = b)
+  : (( pr12 universe) Γ a) -->[identity Γ] (( pr12 universe) Γ b).
+Proof.
+  induction p.
+  apply id_disp.
+Defined.
+
+Section universe_coherence.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]:
```suggestion
Section UniverseCoherence.
```

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v [hunk 21]
```diff
@@ -0,0 +1,788 @@
...
+  Context (C : comp_cat_with_terminal)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]: The `C` can be made implicit, right?

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v [hunk 22]
```diff
@@ -0,0 +1,788 @@
...
+      rewrite assoc'.
+      apply maponpaths.
+      refine (!_).
+      apply comp_cat_subst_ty_iso_comp.
+    }
+    do 3 apply maponpaths.
+    apply homset_property.
+  Qed.
+
+  Local Definition coherent_comp : UU
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]: Why is each definition in this section `Local`?

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v [hunk 23]
```diff
@@ -0,0 +1,788 @@
...
+   but we do not define it here. *)
+
+  Definition comp_cat_universe_closed_unit : UU :=
+    ∑ (OneU : univ_unit_code),
+    (univ_unit_el_iso OneU).
+
+  Coercion unit_unit_code_from_comp_cat {UnivU : comp_cat_universe_closed_unit}
+    : univ_unit_code := pr1 UnivU.
+
+  (** accessors for pi codes  *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]:
```suggestion
  (** accessors for unit codes  *)
```

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v [hunk 24]
```diff
@@ -0,0 +1,1039 @@
...
+
+  Section Terminal_from_comp_cat_with_u.
+
+    (* The terminal context is the code of unit in the comprehension category. *)
+
+    Let unit_code := comp_cat_unit_code _ _ UnitU.
+    Let unit_code_w := (comp_cat_unit_code_weakened C Unit UnitU []).
+    Let tm_unit_code := term_unit_code C Unit UnitU [].
+
+  Definition terminal_context : context_from_comp_cat_with_u := unit_code_w.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v]: The indenting seems off (the `Lets` above are further to the right)

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v [hunk 25]
```diff
@@ -0,0 +1,1039 @@
...
+Proof.
+  use tpair.
+  - exact terminal_context.
+  - intro Γ.
+    exact (terminal_morphism Γ ,, terminal_uniqueness Γ).
+Defined.
+
+(** * Substitutions  *)
+
+  Definition cwf_ty_from_comp_cat_with_u :  cwf_context_from_comp_cat_with_u → hSet.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v:192]: This should be indented further to the left.

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v [hunk 26]
```diff
@@ -0,0 +1,1039 @@
...
+           apply cancel_precomposition.
+           exact h.
+        ++ rewrite id_right.
+           eapply pathscomp0.
+           ** apply cancel_postcomposition.
+              exact (pr2 t).
+           ** apply id_left.
+      Qed.
+
+   Context (Γ Δ : cwf_data_from_comp_cat_with_u)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v]: The `Qed` above is indented further to the right

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v [hunk 27]
```diff
@@ -0,0 +1,1039 @@
...
+      apply comp_cat_univ_coherent_comp.
+    }
+    etrans.
+    { do 3 apply maponpaths.
+      apply maponpaths_2.
+      refine (assoc' _ _ _ @ _).
+      apply maponpaths.
+      apply comp_cat_el_map_comp.
+    }
+    assert (H : (s · (comp_cat_comp_mor (⌈ comp_cat_sigma_el_iso C Sigma SigmaU Γ A ⌉) · comp_cat_sigma_proj (comp_cat_el Γ) (comp_cat_el A)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v]: This type of this assert can be displayed in a nicer way

**Review by nmvdw — APPROVED** [review]
Thanks for the contribution! Overall, it looks good, and I mainly have minor comments. A general comment: in the start of the file, it is better to use `(**` rather than `(*` for documentation purposes (https://rocq-prover.org/doc/master/refman/using/tools/coqdoc.html)

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 12 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v:60]: yes. simply because that is how Jacob's definition is. What do you think?

Comment (nmvdw) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v:60]: Sure

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v (hunk 7 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 11 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 16 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 17 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v (hunk 25 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v:192]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v (hunk 24 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v (hunk 26 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CwfFromCompCatWithUniv.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v (hunk 2 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: addressed in 44f958e43930bd0c2f28cf0194b3768825ffac90

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v (hunk 6 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: Addressed in 5edfc9a7776f0ed728a5068fa58ef074d600c3d2

File: UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v (hunk 10 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/CategoriesWithFamilies/CatsWithFams.v]: addressed in bd4a8977c352182135918d5e5e79e14b9b823dae

File: UniMath/CategoryTheory/ComprehensionCats/CompCatTypeFormers.v (hunk 18 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCatTypeFormers.v]: addressed in bd4a8977c352182135918d5e5e79e14b9b823dae

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v (hunk 21 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]: addressed in bd4a8977c352182135918d5e5e79e14b9b823dae

File: UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v (hunk 22 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCatUniverse.v]: addressed in bd4a8977c352182135918d5e5e79e14b9b823dae

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 13 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: addressed in 08d2028905b3db98fc00f76095f6e1b9551e28c7

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 14 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v:271]: possibly addressed in c5b075fc09a8029671cc61d59073a384e3252dc6

Can you check if this is what you want?

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 15 above)
Comment (niyoushanajmaei) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v]: addressed in c5b075fc09a8029671cc61d59073a384e3252dc6

File: UniMath/CategoryTheory/ComprehensionCats/CompCats.v (hunk 14 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/ComprehensionCats/CompCats.v:271]: yes, looks good

**Review by nmvdw — APPROVED** [review]
